US04824958
A solution of 25.01 g (136.0 mmol) of 5-trimethylsilyl-2-furancarboxylic acid (Carpenter, A. J. and Chadwick, D. J., Tetrahedron Lett., 26, 1777 (1985)) in 50 mL of dry tetrahydrofuran is added over 10 minutes to a -76° C. solution of freshly generated lithium diisopropylamide (328.0 mmol, 2.41 equiv) in dry tetrahydrofuran (175 mL) under nitrogen atmosphere and the resulting mixture is stirred at -76° to 65° C. for 1.5 hours. The reaction is recooled to -76° C. and treated with 23.58 g (151.0 mmol, 1.11 equiv) of diisopropyl sulfide in 25 mL of tetrahydrofuran and the resulting mixture is stirred for 4 hours while slowly warming to room temperature. The reaction is poured onto 1.5 L of water and the aqueous mixture is extracted with diethyl ether (200 mL, 3x), treated with 400 g of ice, and acidified with concentrated hydrochloric acid. The resulting precipitate is collected by vacuum filtration and recrystallized from diethyl ether/cyclohexane to give 18.22 g (35.14 g theo., 52%) of analytically pure 3-isopropylthio-5-trimethylsilyl-2-furancarboxylic acid as a tan solid; mp 181°-183° C.

reactant | 5-trimethylsilyl-2-furancarboxylic acid | 136.0 mmol, 25.01 g | C[Si](C1=CC=C(O1)C(=O)O)(C)C | C8H12O3Si
reactant | lithium diisopropylamide | 328.0 mmol, 2.41 equiv | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropyl sulfide | 151.0 mmol, 23.58 g, 1.11 equiv | C(C)(C)SC(C)C | C6H14S
reactant | water | 1.5 L | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-isopropylthio-5-trimethylsilyl-2-furancarboxylic acid | C(C)(C)SC1=C(OC(=C1)[Si](C)(C)C)C(=O)O | C11H18O3SSi
